US04614822
Sodium 3,3-dimethyl-2-hydroxybutyrate and ruthenium dioxide hydrate are added to water, the pH rendered alkaline, and sodium hypochlorite is slowly added to produce sodium 3,3-dimethyl-2-oxobutyrate in high yield and purity. The solid catalyst is filtered off and may be re-used while the filtrate can be directly used in further synthesis.

reactant | Sodium 3,3-dimethyl-2-hydroxybutyrate | CC(C(C(=O)[O-])O)(C)C.[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
catalyst | ruthenium dioxide hydrate | O.[Ru](=O)=O
solvent | water | O | H2O
product | sodium 3,3-dimethyl-2-oxobutyrate | CC(C(C(=O)[O-])=O)(C)C.[Na+] | InChI=1S/C6H10O3.Na/c1-6(2,3)4(7)5(8)9;/h1-3H3,(H,8,9);/q;+1/p-1
